US08912188B2
To a solution of 5-bromo-3-methyl-1H-indole (1.5 g, 7.14 mmol) in dioxane (40 mL) was added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (2.18 g, 8.57 mmol), AcOK (1.40 g, 14.3 mmol) and Pd(dppf)Cl2 (262 mg, 0.36 mmol). The resulting solution was stirred overnight at 90° C. The reaction mixture was poured into water (200 mL), extracted with DCM (3×100 mL), dried over anhydrous sodium sulfate, and concentrated under vacuum to give a residue, which was purified via silica gel chromatography (3% ethyl acetate in petroleum ether) to afford 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole as a white solid (1.1 g, 60%).

reactant | 5-bromo-3-methyl-1H-indole | 7.14 mmol, 1.5 g | BrC=1C=C2C(=CNC2=CC1)C | C9H8BrN
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 8.57 mmol, 2.18 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | AcOK | 14.3 mmol, 1.40 g | C(=O)(C)O[K]
reactant | water | 200 mL | O | H2O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.36 mmol, 262 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 1.1 g, 60% | CC1=CNC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C15H20BNO2
